US05880140
Step B: 2-(Pyrid-2-yl)-5-pyridine carboxylic acid
A mixture of 2-trifluoromethanesulfonyloxy-5-pyridine-carboxylic acid (0.442 g, 1.72 mmol), 2-pyridylboronic acid (1.57 g, 12.79 mmol), barium hydroxide (0.813 mg, 2.58 mmol), DME (8 mL) and water (1.5 mL) is purged with dry argon. Tetrakis(triphenylphosphine) palladium(0) (99.0 mg, 0.086 mmol) is added, and the resultant solution is stirred at 80° C. for 4 hours. The solvents are evaporated in vacuo, and the residue is partitioned between EtOAc and water. The aqueous extract is separated, and extracted with EtOAc. The organic extracts are combined, washed with sat. aq. NaHCO3 and 5% aq. Na2S2O3, dried, (Na2SO4) and the solvent is evaporated in vacuo. The residue is purified by chromatography to afford the title compound.

reactant | 2-trifluoromethanesulfonyloxy-5-pyridine-carboxylic acid | 1.72 mmol, 0.442 g | FC(S(=O)(=O)OC1=NC=C(C=C1)C(=O)O)(F)F | C7H4F3NO5S
reactant | 2-pyridylboronic acid | 12.79 mmol, 1.57 g | N1=C(C=CC=C1)B(O)O | C5H6BNO2
reactant | barium hydroxide | 2.58 mmol, 0.813 mg | [OH-].[Ba+2].[OH-]
reactant | DME | 8 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 0.086 mmol, 99.0 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 1.5 mL | O | H2O
product | 2-(Pyrid-2-yl)-5-pyridine carboxylic acid | N1=C(C=CC=C1)C1=NC=C(C=C1)C(=O)O | C11H8N2O2
